US07482484B2
Step c: 6-hydroxy-5-iodoindan-1-one
AlCl3 (10.66 g; 80.0 mmol) is added to a mixture of 5-iodo-6-methoxyindan-1-one (7.68 g; 26.66 mol) in toluene (130 ml).

reactant | AlCl3 | 80.0 mmol, 10.66 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-iodo-6-methoxyindan-1-one | 26.66 mol, 7.68 g | IC=1C=C2CCC(C2=CC1OC)=O | C10H9IO2
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
product | 6-hydroxy-5-iodoindan-1-one | OC1=C(C=C2CCC(C2=C1)=O)I | C9H7IO2
